US05891889
Step B: 2-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid.
A solution of the 2-{1-(triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid methyl ester in THF was treated with 1 equivalent of 1M lithium hydroxide solution. Upon consumption of starting material as determined by t.l.c, 1 equivalent of hydrochloric acid was added and the solution evaporated to dryness in vacuo. The material obtained in this manner could be used without furthur purification.

reactant | 2-{1-(triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid methyl ester | COC(C(CC1=CC=C(C=C1)C#N)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H27N3O2
reactant | lithium hydroxide | 1M, 1 equivalent | [OH-].[Li+]
reactant | hydrochloric acid | 1 equivalent | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-{1-(Triphenylmethyl)-1H-imidazol-4-yl}-2-(4-cyanobenzyl)-acetic acid | C1(=CC=CC=C1)C(N1C=NC(=C1)C(C(=O)O)CC1=CC=C(C=C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H25N3O2
